US08124764B2
To a solution of 2,4-dichloro-1,3,5-triazine (300 mg, 2.0 mmol), 4-aminobenzoic acid methyl ester (302 mg, 2.05 mmol) in acetonitrile (3 mL), DIPEA (0.35 mL, 2.0 mmol) was added. After 30 minutes at room temperature, resulting solid was filtered and washed with acetonitrile and dried to give methyl 4-(4-chloro-1,3,5-triazin-2-ylamino)benzoate (Int-1). MS found for C11H9ClN4O2 as (M+H)+ 265.07. A mixture of 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)H-imidazo[1,2-a]pyridine (139 mg, 0.57 mmol), Int-1 (150 mg, 0.57 mmol), 2.0M Sodium carbonate solution (0.6 mL, 1.25 mmol), PdCl2(dppf) (14 mg, 0.02 mmol), dioxane (2 mL) was heated in a microwave (Emry's Optimizer) at 125° C. for 15 minutes. The reaction mixture was then poured into water and the resulting solid was filtered and washed with ether and dried to give 5 methyl 4-(4-(H-imidazo[1,2-a]pyridin-3-yl)-1,3,5-triazin-2-ylamino)benzoate (Int-2) which was used without further purification. MS found for C18H14N6O2 as (M+H)+ 347.25. To solid Int-2 in MeOH (5 mL) was added 1N NaOH (5 mL) and stirred at 60° C. for 2 hours. The reaction mixture was concentrated, diluted with water and neutralized with 6N HCl (1.5 mL). The aqueous phase was then extracted with ethyl acetate and the combined organic layers were concentrated to give 4-(4-(H-imidazo[1,2-a]pyridin-3-yl)-1,3,5-triazin-2-ylamino)benzoic acid (Int-3). MS found for C17H12N6O2 as (M+H)+ 333.34. To Int-3 in DMF (6 mL), was added HATU (260 mg, 0.7 mmol), 1,2-phenylenediamine (123 mg, 1.1 mmol) and DIPEA (0.4 mL, 2.3 mmol) and stirred at room temperature for 3 hours. The reaction mixture was diluted with water and acetonitrile and directly purified by preparative HPLC affording the title compound, after lyophilization. MS found for C23H18N8O as (M+H)+ 423.09. 1H NMR (400 MHz, dmso-d6): δ 10.49 (s, 1H); 9.89 (brs, 1H); 9.56 (s, 1H); 8.78 (s, 1H); 8.57 (s, 1H); 7.99-7.77 (m, 6H); 7.54 (t, J=7.6 Hz, 1H); 7.23 (t, J=6.4 Hz, 1H); 7.14 (d, J=7.6 Hz, 1H); 6.94 (m, 1H); 6.75 (d, J=8.0 Hz, 1H); 6.57 (t, J=7.6 Hz, 1H).

reactant | 2,4-dichloro-1,3,5-triazine | 2.0 mmol, 300 mg | ClC1=NC=NC(=N1)Cl | C3HCl2N3
reactant | 4-aminobenzoic acid methyl ester | 2.05 mmol, 302 mg | COC(C1=CC=C(C=C1)N)=O | C8H9NO2
reactant | DIPEA | 2.0 mmol, 0.35 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | methyl 4-(4-chloro-1,3,5-triazin-2-ylamino)benzoate | ClC1=NC(=NC=N1)NC1=CC=C(C(=O)OC)C=C1 | C11H9ClN4O2
